US07825244B2
4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester (32.6 mg, 66.9 μmol), as prepared in Example 90d, DMSO (50 μL), and 0.31M KOMe/MeOH (270 μL, 83.9 μmol KOMe in 6.4 mmol MeOH) was stirred at 100° C. for 9 hr, and then 110° C. for 2 hr. The resulting pale yellow homogeneous solution was allowed to cool to rt, diluted with DCM (2 mL), and washed with 4M NaCl (1×2 mL). The aq layer was back-extracted with DCM (1×2 mL), and the combined organic layers were dried (Na2SO4) and concentrated. Purification of the residue by silica flash chromatography (1:2 hex/EtOAc→1:2 hex/EtOAc/3% DMEA→9:1 EtOAc/acetone/3% DMEA eluent) afforded the title compound (18.4 mg, 55%). NOe experiments support the assigned regioisomer. Select 1H-NMR resonances and nOes (300 MHz, CDCl3) δ 7.34 (s, 1H), 7.24 (s, 1H), 4.04 (s, 3H), 3.51 (m, 1H). Irradiation of the diagnostic methine proton at δ 3.51 generates an nOe to the quinazoline C5 proton at δ 7.24, but not to the quinazoline C8 proton at δ 7.34. Irradiation of the methoxy protons at δ 4.04 generates an nOe to the C5 proton at δ 7.24, but not to the C8 proton at δ 7.34. This indicates methoxy substitution at C6 of the quinazoline. LC/MS (ESI): calcd mass 499.3, found 500.4 (MH)+.

reactant | 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | 66.9 μmol, 32.6 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)OCCCN1CCN(CC1)C | C26H38FN5O3
reactant | DMSO | 50 μL | CS(=O)C | C2H6OS
reactant | KOMe MeOH | 83.9 μmol, 0.31M, 270 μL | O([K])C.CO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | 18.4 mg, 55% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C27H41N5O4
